US08877780B2
A stirred mixture of 5-ethanesulfonyl-pyridine-2-carboxylic acid (0.34 g, 1.60 mmol) and CDI (0.27 g, 1.70 mmol) in N,N-dimethylformamide (15 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (0.61 g, 1.60 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×75 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (EtOAc/hexanes, gradient, product eluted at 80-90% EtOAc). The product fractions were combined and concentrated to give 5-ethanesulfonyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.25 g, 32% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 6.15 min (96.20%); mp: 265-267° C.; 1H NMR (DMSO-d6) δ 1.15 (t, J=7.4 Hz, 3H), 2.00-2.20 (m, 1H), 2.52-2.67 (m, 2H), 2.77-3.01 (m, 1H), 3.48 (q, J=7.4 Hz, 2H), 4.69 (d, J=6.2 Hz, 2H), 5.14 (dd, J=5.4, 12.7 Hz, 1H), 7.73-8.04 (m, 3H), 8.29 (d, J=8.3 Hz, 1H), 8.49 (dd, J=2.3, 8.1 Hz, 1H), 9.10 (d, J=1.7 Hz, 1H), 9.86 (t, J=6.3 Hz, 1H), 11.12 (s, 1H); 13C NMR (DMSO-d6) δ 6.83, 21.99, 30.93, 42.58, 49.01, 49.34, 122.17, 122.68, 123.54, 129.87, 131.59, 133.63, 137.04, 138.13, 147.09, 147.60, 153.38, 163.02, 166.97, 167.12, 169.80, 172.72; LCMS: MH=485; Anal Calcd for C22H20N4O7S: C, 54.54; H, 4.16; N, 11.56. Found: C, 54.82; H, 3.92; N, 11.57.

reactant | 5-ethanesulfonyl-pyridine-2-carboxylic acid | 1.60 mmol, 0.34 g | C(C)S(=O)(=O)C=1C=CC(=NC1)C(=O)O | C8H9NO4S
reactant | CDI | 1.70 mmol, 0.27 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 1.60 mmol, 0.61 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-ethanesulfonyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.25 g, 32% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=NC=C(C=C1)S(=O)(=O)CC)=O)=O | C22H20N4O7S
